US05354755
Preparation of 1-(p-Aminophenyl)-3-(3,4 -dihydro-4-oxo-3-quinazolinyl)urea
5% Pd/C (0.5 g) is added to a mixture of 1-(3,4-dihydro-4-oxo-3-quinazolinyl)-3-(p-nitrophenyl)urea (1.32 g, 4.06 mmol), ethanol (50 mL) and acetic acid (5 mL). The reaction mixture is placed on a Parr hydrogenator at 50 psi H2 for 3 hours, diluted with acetone and filtered. The filtrate is concentrated in vacuo to obtain a brown oil. The oil is dissolved in methanol, decolorized with activated carbon and concentrated in vacuo to give the title product as a tan solid, 0.9 g, mp>305° C.

reactant | 1-(3,4-dihydro-4-oxo-3-quinazolinyl)-3-(p-nitrophenyl)urea | 4.06 mmol, 1.32 g | O=C1N(C=NC2=CC=CC=C12)NC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C15H11N5O4
reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | acetone | CC(=O)C | C3H6O
solvent | methanol | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 1-(p-Aminophenyl)-3-(3,4 -dihydro-4-oxo-3-quinazolinyl)urea | NC1=CC=C(C=C1)NC(=O)NN1C=NC2=CC=CC=C2C1=O | C15H13N5O2
